US07342027B2
Preparation of 4-[N-[1-[N-(benzyloxycarbonyl)amino]cyclohexanecarbonyl]amino]-1-(2-trifluoromethylphenyl)piperidin-3-one
In accordance with the same procedure as in Example 24, except that 4-[N-[1-[N-(benzyloxycarbonyl)amino]cyclohexanecarbonyl]amino]-1-(4-fluoro-2-aminophenyl)piperidin-3-ol hydrochloride was used instead of 4-[N-[1-[N-(benzofuran-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-3-piperidinol hydrochloride and 1-bromo-2-trifluoromethylbenzene was used instead of 1-bromo-4-fluoro-2-trifluoromethylbenzene in Step 1 of Example 24, 228 mg of the titled compound was prepared.

reactant | 4-[N-[1-[N-(benzyloxycarbonyl)amino]cyclohexanecarbonyl]amino]-1-(4-fluoro-2-aminophenyl)piperidin-3-ol hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)NC1(CCCCC1)C(=O)NC1C(CN(CC1)C1=C(C=C(C=C1)F)N)O
reactant | 1-bromo-2-trifluoromethylbenzene | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
product | 4-[N-[1-[N-(benzyloxycarbonyl)amino]cyclohexanecarbonyl]amino]-1-(2-trifluoromethylphenyl)piperidin-3-one | 228 mg | C(C1=CC=CC=C1)OC(=O)NC1(CCCCC1)C(=O)NC1C(CN(CC1)C1=C(C=CC=C1)C(F)(F)F)=O | C27H30F3N3O4
